US07723368B2
Step 2) 5-ethynyl-2-fluorophenol
2-fluoro-5-((triisopropylsilyl)ethynyl)phenol is dissolved in THF and tetrabutyl ammoniumflouride is added. The solution is stirred overnight at RT. Et2O is added and the solution is washed with H2O, Brine, dried, and the solvent removed. This material is used without any further purification.

reactant | 2-fluoro-5-((triisopropylsilyl)ethynyl)phenol | FC1=C(C=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)O | C17H25FOSi
reactant | tetrabutyl ammoniumflouride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Et2O | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 5-ethynyl-2-fluorophenol | C(#C)C=1C=CC(=C(C1)O)F | C8H5FO
